US06476059B1
366 mg of 2-chloro-5-pyridin-3-yl-1-indanone are dissolved with 203 mg of N-methylthiourea in 5 ml of methanol and heated to reflux for 7 h. The reaction mixture is cooled and, after addition of 20 ml of acetone, the precipitate is filtered off with suction, washed with acetone and dried in vacuo. Methyl(6-pyridin-3-yl-8H-indeno[1,2-d]thiazol-2-yl)amine hydrochloride is obtained with a melting point of 225° C.

reactant | 2-chloro-5-pyridin-3-yl-1-indanone | 366 mg | ClC1C(C2=CC=C(C=C2C1)C=1C=NC=CC1)=O | C14H10ClNO
reactant | N-methylthiourea | 203 mg | CNC(=S)N | C2H6N2S
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | methanol | 5 ml | CO | CH4O
product | Methyl(6-pyridin-3-yl-8H-indeno[1,2-d]thiazol-2-yl)amine hydrochloride | Cl.CNC=1SC2=C(N1)C=1C=CC(=CC1C2)C=2C=NC=CC2 | InChI=1S/C16H13N3S.ClH/c1-17-16-19-15-13-5-4-10(11-3-2-6-18-9-11)7-12(13)8-14(15)20-16;/h2-7,9H,8H2,1H3,(H,17,19);1H
